US07645789B2
A mixture of 1-tert-butyl-5-methyl-2,4-dinitrobenzene and 1-tert-butyl-3-methyl-2,4-dinitrobenzene (9.0 g, 38 mmol, 2:1 by NMR) and DMA (5.4 g, 45 mmol) in DMF (50 mL) was heated at reflux for 2 h before being cooled to room temperature. The reaction mixture was poured into water-ice and extracted with EtOAc (50 mL×3). The combined organic layers were washed with water and brine, before being evaporated to give a brown oil, which was purified by column to give (E)-2-(5-tert-butyl-2,4-dinitrophenyl)-N,N-dimethylethen-amine (5.0 g, 68%).

reactant | 1-tert-butyl-5-methyl-2,4-dinitrobenzene | C(C)(C)(C)C1=C(C=C(C(=C1)C)[N+](=O)[O-])[N+](=O)[O-] | C11H14N2O4
reactant | 1-tert-butyl-3-methyl-2,4-dinitrobenzene | 38 mmol, 9.0 g | C(C)(C)(C)C1=C(C(=C(C=C1)[N+](=O)[O-])C)[N+](=O)[O-] | C11H14N2O4
reactant | DMA | 45 mmol, 5.4 g | CC(=O)N(C)C | C4H9NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (E)-2-(5-tert-butyl-2,4-dinitrophenyl)-N,N-dimethylethen-amine | 5.0 g, 68% | C(C)(C)(C)C=1C(=CC(=C(C1)/C=C/N(C)C)[N+](=O)[O-])[N+](=O)[O-] | C14H19N3O4
